US04117143
5-(4-Chlorobenzoyloxy)-3-methyl-4-phenyl-1-(4-chlorobenzyl)-pyrazole
0.1 mol (29.9 g) of 3-methyl-4-phenyl-1-(p-chlorobenzyl)-5-pyrazolone were dissolved in 400 ml of absolute dioxane. After adding 15 ml of triethylamine, 0.11 mol (17.6 g) of 4-chlorobenzoyl chloride in dioxane was added dropwise. After heating for several hours under reflux, the reaction batch was worked up as follows:

reactant | 3-methyl-4-phenyl-1-(p-chlorobenzyl)-5-pyrazolone | 0.1 mol, 29.9 g | CC=1NN(C(C1C1=CC=CC=C1)=O)CC1=CC=C(C=C1)Cl | C17H15ClN2O
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.11 mol, 17.6 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 5-(4-Chlorobenzoyloxy)-3-methyl-4-phenyl-1-(4-chlorobenzyl)-pyrazole | ClC1=CC=C(C(=O)OC2=C(C(=NN2CC2=CC=C(C=C2)Cl)C)C2=CC=CC=C2)C=C1 | C24H18Cl2N2O2
